US06797820B2
To 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-carboxy-pyrrolidin-1-ylcarbonyl)pentane F-6 (50 mg) in dioxane (1 mL) was added an amine RNH2 (1 equivalent), DIEA (2.5 equivalents) and HATU or PyBOP (1 equivalent) and the solution stirred for 4 h. The reaction was then cooled to 0° C., 50% aqueous hydroxylamine was added (400 μL), and the solution stirred at 4° C. for 8 hours. The crude reaction mixture was then purified by preparative reverse-phase (C18) HPLC to afford N-hydroxy-3-(R)-n-butyl-3-[2-(S)-aminocarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-hydroxypropionamide F-7.

reactant | 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-carboxy-pyrrolidin-1-ylcarbonyl)pentane | CC1(OC(C(O1)=O)C(CCCC)C(=O)N1[C@@H](CCC1)C(=O)O)C | C16H25NO6
reactant | DIEA | 2.5 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | PyBOP | 1 equivalent | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hydroxylamine | NO | H3NO
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-hydroxy-3-(R)-n-butyl-3-[2-(S)-aminocarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-hydroxypropionamide | ONC([C@H]([C@H](C(=O)N1[C@@H](CCC1)C(=O)N)CCCC)O)=O | C13H23N3O5
